US05344932
A mixture of 1.0 g of dimethyl N-[4-(4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidin-3-ylethynyl)benzoyl]-L-glutamate in 250 mL of 50% methanol in methylene chloride and 0.8 g of 3% palladium-on-carbon is hydrogenated at 50 p.s.i. for three hours, filtered, and concentrated under reduced pressure. The solid is collected by filtration and dried to yield 0.72 g of dimethyl N-{4-[2-(4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidin-3-yl)ethyl]benzoyl}-L-glutamate- mp 247° C. 1NMR (d6 -DMSO)δ1.21 (s, 9H), 1.90-2.12 (m, 2H), 2.42 (t, J=7.4 Hz, 2H), 2.92 (t, J=4 Hz, 2H), 2.97 (t, J=4 Hz, 2H), 3.55 (s, 3H), 3.61 (s, 3H), 4.38-4.45 (m, 1H), 6.61 (s, 1H), 7.27 (d, J=8.2 Hz, 2 H), 7.75 (d, J=8.2 Hz, 2 H), 8.64 (d, J=7.4 Hz, 1 H), 10.75 (s, 1H), 11.22 (s, 1H) . Anal. Calc. for C27H33N5O7 : C, 60.10; H 6.17; N, 12 . 98. Found: C, 59.94; H, 6.15; N, 12.72 .

reactant | dimethyl N-[4-(4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidin-3-ylethynyl)benzoyl]-L-glutamate | 1.0 g | OC1=C2C(N=CN1C#CC1=CC=C(C(=O)N[C@@H](CCC(=O)OC)C(=O)OC)C=C1)=NC(=C2)NC(C(C)(C)C)=O | C27H29N5O7
solvent | methanol | 250 mL | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | palladium-on-carbon | 0.8 g | [Pd] | Pd
product | dimethyl N-{4-[2-(4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidin-3-yl)ethyl]benzoyl}-L-glutamate | 0.72 g | OC1=C2C(N=CN1CCC1=CC=C(C(=O)N[C@@H](CCC(=O)OC)C(=O)OC)C=C1)=NC(=C2)NC(C(C)(C)C)=O | C27H33N5O7
